US07977371B2
2-Aminocarbonylamino-5-(4-hydroxymethylphenyl)pyrrole-3-carboxamide (Compound No. 13-1)
Under ice-cooling, 1.0M diisobutylaluminum hydride in toluene solution (3.2 mL, 3.2 mmol) was added to a solution of 2-aminocarbonylamino-5-(4-ethoxycarbonylphenyl)pyrrole-3-carboxamide (Compound No. 1-30, 0.28 g, 0.89 mmol) in anhydrous tetrahydrofuran (5 mL) and the mixture was stirred for 2 hours. Moreover, 1.0M diisobutylaluminum hydride in toluene solution (3.2 mL, 3.2 mmol) was added thereto and the whole was stirred for 2 hours, and then water (2 mL) and methanol (2 mL) were added thereto. The mixture was filtered with celite with 1,4-dioxane (10 mL) and the filtrate was concentrated in vacuo. The obtained solid was washed with diethyl ether (2 mL), dried under reduced pressure to give the target compound (0.16 g) as a pale yellow solid (Yield 66%).

reactant | diisobutylaluminum hydride | 1.0M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 3.2 mmol, 3.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-aminocarbonylamino-5-(4-ethoxycarbonylphenyl)pyrrole-3-carboxamide | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)C(=O)OCC | C15H16N4O4
reactant | diisobutylaluminum hydride | 1.0M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 3.2 mmol, 3.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 2-Aminocarbonylamino-5-(4-hydroxymethylphenyl)pyrrole-3-carboxamide | 0.16 g, Yield 66% | NC(=O)NC=1NC(=CC1C(=O)N)C1=CC=C(C=C1)CO | C13H14N4O3
